US07728029B2
To a solution of hydrazinecarboxylic acid tert-butyl ester (4.67 g, 27.16 mmol) in toluene (90 mL) was added pulverized potassium hydroxide (1.98 g, 35.3 mmol) and tetrabutylammonium hydrogensulfate (904 mg, 2.72 mmol). The solution was heated to 50° C. in a preheated oil bath and 1-bromo-3-methoxypropane (3.67 mL, 32.6 mmol) was added drop-wise over 45 minutes. The solution was then heated to 80° C. for 3 h. The solution was cooled to room temperature and washed with water (3×150 mL) until the water layer was neutral. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to provide N′-isopropylidene-N-(3-methoxypropyl)-hydrazinecarboxylic acid tert-butyl ester as a viscous oil (6.49 g, 98%), which was used without further purification. Mass spectrum: m/z: 245.4 (M+1).

reactant | hydrazinecarboxylic acid tert-butyl ester | 27.16 mmol, 4.67 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | potassium hydroxide | 35.3 mmol, 1.98 g | [OH-].[K+]
reactant | 1-bromo-3-methoxypropane | 32.6 mmol, 3.67 mL | BrCCCOC | C4H9BrO
reactant | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogensulfate | 2.72 mmol, 904 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N′-isopropylidene-N-(3-methoxypropyl)-hydrazinecarboxylic acid tert-butyl ester | 6.49 g, 98% | C(C)(C)(C)OC(=O)N(N=C(C)C)CCCOC | C12H24N2O3
